US07667041B2
Synthesis of 7-morpholin-4-yl-3,4-dihydro-2H-naphthalen-1-one oxime
A solution of 7-morpholin-4-yl-3,4-dihydro-2H-naphthalen-1-one (360 mg), hydroxylammonium chloride (163 mg) and sodium acetate (384 mg) in ethanol (5.0 mL) was heated to reflux for 1 hour and 50 minutes. Water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 384 mg of the title compound as a crude product. The physical properties of the compound are as follows.

reactant | 7-morpholin-4-yl-3,4-dihydro-2H-naphthalen-1-one | 360 mg | N1(CCOCC1)C1=CC=C2CCCC(C2=C1)=O | C14H17NO2
reactant | hydroxylammonium chloride | 163 mg | [Cl-].O[NH3+]
reactant | sodium acetate | 384 mg | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-morpholin-4-yl-3,4-dihydro-2H-naphthalen-1-one oxime | 384 mg | N1(CCOCC1)C1=CC=C2CCCC(C2=C1)=NO | C14H18N2O2
